US06025516
To a solution of 10.0 g of (2S, 3S) 2-hydroxy-3-amino-3-phenylpropionamide in 100 ml of methanol was slowly added 16 ml of acetyl chloride at 0° C. The reaction mixture was refluxed for 20 h then cooled to room temperature and filtered to remove the ammonium chloride salt. The filtrate was concentrated to one third of its original volume and diluted with 150 ml of ether. The precipitated salt was filtered off and washed with 100 ml of ether to give 10.6 g of methyl (2S, 3S) 2-hydroxy-3-amino-3-phenylpropionate hydrochloride as a colorless solid.

reactant | (2S, 3S) 2-hydroxy-3-amino-3-phenylpropionamide | 10.0 g | O[C@H](C(=O)N)[C@H](C1=CC=CC=C1)N | C9H12N2O2
reactant | acetyl chloride | 16 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 100 ml | CO | CH4O
product | methyl (2S, 3S) 2-hydroxy-3-amino-3-phenylpropionate hydrochloride | 10.6 g | Cl.O[C@H](C(=O)OC)[C@H](C1=CC=CC=C1)N | InChI=1S/C10H13NO3.ClH/c1-14-10(13)9(12)8(11)7-5-3-2-4-6-7;/h2-6,8-9,12H,11H2,1H3;1H/t8-,9-;/m0./s1
